US09315475B2
Step 2: Preparation of tert-butyl (2R,5S)-2-[2-(2-aminopyridin-3-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate
To tert-butyl (2R,5S)-2-[(2-aminopyridin-3-yl)ethynyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate (1 eq.) in 2,2,2,-trifluoroethanol (0.4 M) at rt was added 10% Pd/C (0.2 eq.). The reaction was degassed and then shaken under 1 atm of H2 for 24 hrs. The reaction mixture was filtered on celite and concentrated to afford the desired compound.

reactant | tert-butyl (2R,5S)-2-[(2-aminopyridin-3-yl)ethynyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 1 eq. | NC1=NC=CC=C1C#C[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C23H37N3O4Si
solvent | 2,2,2,-trifluoroethanol | 0.4 M | FC(CO)(F)F | C2H3F3O
catalyst | Pd/C | 0.2 eq. | [Pd] | Pd
product | tert-butyl (2R,5S)-2-[2-(2-aminopyridin-3-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | NC1=NC=CC=C1CC[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C23H41N3O4Si
